US04572912
A mixture of 9.6 g of ethyl 3-[4-(6-acetoxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)phenyl]-2-chloropropionate, 1.8 g of thiourea and 11 ml of sulfolane was reacted for 80 minutes under a nitrogen stream at 115°-120° C. Subsequently, a mixture of 90 ml of acetic acid, 30 ml of concentrated hydrochloric acid and 15 ml of water was added to this, and the resulting mixture was further heated for 12 hours at 85°-90° C. 27 g of sodium bicarbonate were added to this reaction mixture, and, once evolution of carbon dioxide had ceased, the solvent was distilled off. A 10:1 by volume mixture of benzene and ethyl acetate was added to the residue, and the crude product was washed with a mixture of equal volumes of a saturated aqueous solution of sodium bicarbonate and water. The white powder produced was removed by filtration and washed again with water. It was then recrystallized from acetone to give 2.2 g of 5 -[4-(6-hydroxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)benzyl]-2-iminothiazolidin-4-one, melting at 205°-207° C.

reactant | ethyl 3-[4-(6-acetoxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)phenyl]-2-chloropropionate | 9.6 g | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(C)COC1=CC=C(C=C1)CC(C(=O)OCC)Cl)C | C27H33ClO6
reactant | thiourea | 1.8 g | NC(=S)N | CH4N2S
reactant | sulfolane | 11 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | sodium bicarbonate | 27 g | C([O-])(O)=O.[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | water | 15 ml | O | H2O
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
product | 5 -[4-(6-hydroxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)benzyl]-2-iminothiazolidin-4-one | 2.2 g | OC=1C(=C2CCC(OC2=C(C1C)C)(C)COC1=CC=C(CC2C(NC(S2)=N)=O)C=C1)C | C24H28N2O4S
